US05049551
Preparation of 1-[6 -(t-butoxycarbonylamino)-n-hexylcarbamoyl]-5-fluorouracil
The reaction was carried out in the same manner as in Example 7 except for using 9.06 g (69.6 mmole) of 5-fluorouracil, 6.20 g (62.7 mmole) of phosgene, 12.68 g (125.3 mmole) of triethylamine, and 11.36 g (52.5 mmole) of N-(t-butyoxycarbonyl)hexamethylenediamine synthesized in Reference example 13 in place of N-[N-(2-n-propyl-n-pentanoyl)-glycyl]hexamethylenediamine used in Example 7. The reaction mixture was treated in the same manner as in Example 7 to give 16.06 g (Yield: 91.3%) of pale yellowish crystals. 1 g of this crystals was recrystallized from 15 ml of ethyl acetate to give 0.52 g of colorless needle crystals.

reactant | 5-fluorouracil | 69.6 mmole, 9.06 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | phosgene | 62.7 mmole, 6.20 g | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 125.3 mmole, 12.68 g | C(C)N(CC)CC | C6H15N
reactant | N-(t-butyoxycarbonyl)hexamethylenediamine | 52.5 mmole, 11.36 g | C(C)(C)(C)OC(=O)NCCCCCCN | C11H24N2O2
reactant | N-[N-(2-n-propyl-n-pentanoyl)-glycyl]hexamethylenediamine | C(CC)C(C(=O)NCC(=O)NCCCCCCN)CCC | C16H33N3O2
product | 1-[6 -(t-butoxycarbonylamino)-n-hexylcarbamoyl]-5-fluorouracil | 16.06 g, Yield: 91.3% | C(C)(C)(C)OC(=O)NCCCCCCNC(=O)N1C(=O)NC(=O)C(=C1)F | C16H25FN4O5
